US08912209B2
A solution of 2-methoxy-tetrahydro-furan-3-ol in DMF 200 mL was added sodium hydride in small portions with stirring at 0° C. for 2 hrs, then 2-Benzyloxy-ethanol was added from the dropping funnel over a period of 1 hour, the resulting mixture was stirred at 25° C. for 15 hrs, it was poured into 400 mL water, EtOAC (1 L) were added and separated. The organic layer was washed with sat. NaHCO3 (500 mL), dried over Na2SO4, filtered and concentrated, The residue was purified by column chromatography (PE:EA=5:1) to yield 10 g of 3-(2-Benzyloxy-ethoxy)-2-methoxy-tetrahydro-furan (oil).

reactant | 2-methoxy-tetrahydro-furan-3-ol | COC1OCCC1O | C5H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-Benzyloxy-ethanol | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | water | 400 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 3-(2-Benzyloxy-ethoxy)-2-methoxy-tetrahydro-furan | 10 g | C(C1=CC=CC=C1)OCCOC1C(OCC1)OC | C14H20O4
